US07544701B2
Preparation of [2-(2-Oxo-2,3-dihydrobenzimidazol-1-yl)ethyl]-carbamic acid t-butyl ester
A mixture of [2-(2-aminophenylamino)ethyl]carbamic acid t-butyl ester (3.85 g, 15.3 mmol) and 1,1-carbonyldiimidazole (CDI) (2.73 g, 16.8 mmol) in DMF are heated at 110°-120° C. until reaction is complete by TLC, cooled and extracted with EtOAc. The combined extracts are washed with water, dried over MgSO4 and concentrated in vacuo. The resultant residue is purified by flash chromatography (silica gel, 1:1 CH2Cl2: EtOAc as eluent) to give the title compound as a brown solid, 2.4 g (56% yield), identified by HPLC and mass spectral analyses.

reactant | [2-(2-aminophenylamino)ethyl]carbamic acid t-butyl ester | 15.3 mmol, 3.85 g | C(C)(C)(C)OC(NCCNC1=C(C=CC=C1)N)=O | C13H21N3O2
reactant | DMF | CN(C)C=O | C3H7NO
product | [2-(2-Oxo-2,3-dihydrobenzimidazol-1-yl)ethyl]-carbamic acid t-butyl ester | 56% yield | C(C)(C)(C)OC(NCCN1C(NC2=C1C=CC=C2)=O)=O | C14H19N3O3
